US08211919B2
To a solution of ethyl (2E)-2-cyano-3-phenylacrylate (1.2 g) in ethanol (30 mL) was added 10% Palladium hydroxide (0.3 g) and the mixture was hydrogenated at 3 atms. for 2 hours. After removing the catalysts by filtration on celite pad, the filtrate was evaporated in vacuo. The residue was dissolved in 1N HCl (2 mL) and washed with chloroform. The separated aqueous layer was adjusted to pH=7 by addition of saturated sodium bicarbonate solution and extracted with ethyl acetate. The separated organic layer was washed with brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by column chromatography on silica gel to afford ethyl 3-amino-2-benzylpropanoate (388 mg).

reactant | ethyl (2E)-2-cyano-3-phenylacrylate | 1.2 g | C(#N)/C(/C(=O)OCC)=C\C1=CC=CC=C1 | C12H11NO2
solvent | ethanol | 30 mL | C(C)O | C2H6O
catalyst | Palladium hydroxide | 0.3 g | [OH-].[Pd+2].[OH-]
product | ethyl 3-amino-2-benzylpropanoate | 388 mg | NCC(C(=O)OCC)CC1=CC=CC=C1 | C12H17NO2
